US07709500B2
7-(Chlorosulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid (0.8 g) was added to dimethylamine (15 ml) and the mixture was stirred for 18 h. The mixture was acidified with concentrated hydrochloric acid and then filtered to yield 7-[(dimethylamino)sulfonyl]-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid as a white solid.

reactant | 7-(Chlorosulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid | 0.8 g | ClS(=O)(=O)C1=CC=C2C(=CNC(C2=C1)=O)C(=O)O | C10H6ClNO5S
reactant | dimethylamine | 15 ml | CNC | C2H7N
reactant | hydrochloric acid | Cl | ClH
product | 7-[(dimethylamino)sulfonyl]-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid | CN(S(=O)(=O)C1=CC=C2C(=CNC(C2=C1)=O)C(=O)O)C | C12H12N2O5S
